US04064247
A solution (20 cc.) containing 2 mols per liter of phosgene in toluene, is added dropwise, in the absence of moisture, whilst stirring and at a temperature of about 20° C ., to a solution of (S)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline-3-thione (2.2 g.) in tetrahydrofuran (25 cc.). The mixture becomes cloudy after 15 minutes; it is stirred for 5 hours and then heated to 50° C. for 1 hour. The solvents are evaporated under reduced pressure (25 mm. Hg ) at 60° C. to give (S)-3-chloro-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium chloride (2.6 g.) in the form of a very hygroscopic white crystalline powder.

reactant | phosgene | 2 mols per liter | C(=O)(Cl)Cl | CCl2O
reactant | (S)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline-3-thione | 2.2 g | C1SC(N2CC=3C=CC=CC3C[C@H]21)=S | C11H11NS2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 25 cc | O1CCCC1 | C4H8O
product | (S)-3-chloro-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium chloride | 2.6 g | [Cl-].ClC=1SC[C@H]2[N+]1CC=1C=CC=CC1C2 | InChI=1S/C11H11ClNS.ClH/c12-11-13-6-9-4-2-1-3-8(9)5-10(13)7-14-11;/h1-4,10H,5-7H2;1H/q+1;/p-1/t10-;/m0./s1
